US07842685B2
Potassium 2-methylpropan-2-olate (32.3 g, 288 mmol) was almost completely dissolved in 250 mL DMSO under argon in a 1 L 3-necked RBF. Trimethyl sulfoxonium iodide (63.3 g, 288 mmol) was added in 2 portions, separated by 15 min. The reaction mixture became wamm after the addition. After 15 min, the reaction was fitted with a water-cooled reflux condenser and heated to 60° C., and a solution of 2-methyl-5-(1-phenylvinyl)thiazolo[5,4-b]pyridine (41.5 g, 164 mmol) in 125 mL THF was added slowly dropwise via addition funnel over 30 min. The resulting dark red reaction mixture was cooled briefly and then poured onto ice and 300 mL sat'd aq. NH4Cl was added. Ethyl acetate (500 mL) was added and the layers were separated. The aq. Layer was extracted with ethyl acetate and the combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Purification by silica gel chromatography, 330 g, 0-40% EAlhexanes gave 2-methyl-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine as an orange solid. MS (ESI) m/z: calculated: 266.1; Observed: 267.1 (M++1).

reactant | Potassium 2-methylpropan-2-olate | 288 mmol, 32.3 g | CC(C)(C)[O-].[K+]
reactant | Trimethyl sulfoxonium iodide | 288 mmol, 63.3 g | [I-].C[S+](=O)(C)C
reactant | 2-methyl-5-(1-phenylvinyl)thiazolo[5,4-b]pyridine | 164 mmol, 41.5 g | CC=1SC2=NC(=CC=C2N1)C(=C)C1=CC=CC=C1 | C15H12N2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMSO | 250 mL | CS(=O)C | C2H6OS
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2-methyl-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | CC=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C16H14N2S
